US04940713
(b) Preparation of Ethyl 4-[(5-cyano-6-ethoxy-6-oxohexyl)tosylamino]benzoate
A mixture of 0.506 g (0.0220 mol) of sodium in 10 mL of absolute ethanol under nitrogen was refluxed briefly, and a solution formed. After it had cooled to room temperature, to the solution was added dropwise over a 2-min period 2.74 g (0.0242 mol) of ethyl cyanoacetate. The mixture was refluxed for 10 min and was allowed to cool to room temperature. Then to it was added over a 6-min period 5.00 g (0.0110 mol) of ethyl 4-[(4-bromobutyl)tosylamino]benzoate and 15 mL of rinse absolute ethanol. The mixture was refluxed under nitrogen for 6 h, allowed to cool to room temperature, and stand overnight. It was neutralized with glacial acetic acid and concentrated under vacuum to a wet solid to which was added 50 mL of water and 50 mL of ether. The mixture was shaken in a separatory funnel, and the layers were separated. The aqueous layer was washed with 2×50 mL more ether, and the ether washes were combined, dried over magnesium sulfate for three days, filtered, and concentrated under high vacuum at 60° C. to a viscous, pink oil; yield, 5.97 g. The oil was purified by a flash chromatography column consisting of 400 g of Silica Gel 60 with 3:1 hexanes/ethyl acetate as the eluting solvent. Fractions containing clean product were combined and concentrated under vacuum to a colorless, viscous oil; yield, 2.76 g (50%): NMR (Me2SOd6) δ 1.19 (t, 3H), 1.29 (t, 3H), 1.3-1.5 (m, 4H), 1.65-1.85 (m, 2H), 2.37 (s, 3H), 3.5-3.7 (m, 2H), 4.14 (t, 1H), 4.15 (q, 2H), 4.29 (q, 2H), 7.22 (d, 2H), 7.3-7.5 (AA'BB', 4H), 7.90 (d, 2H), 0.15 mol of ethyl acetate.

reactant | sodium | 0.0220 mol, 0.506 g | [Na] | Na
reactant | ethyl cyanoacetate | 0.0242 mol, 2.74 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | ethyl 4-[(4-bromobutyl)tosylamino]benzoate | 0.0110 mol, 5.00 g | BrCCCCN(C1=CC=C(C(=O)OCC)C=C1)S(=O)(=O)C1=CC=C(C)C=C1 | C20H24BrNO4S
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | ethanol | 15 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl 4-[(5-cyano-6-ethoxy-6-oxohexyl)tosylamino]benzoate | C(#N)C(CCCCN(C1=CC=C(C(=O)OCC)C=C1)S(=O)(=O)C1=CC=C(C)C=C1)C(=O)OCC | C25H30N2O6S
